US06339046B1
3-(4-chloro-2-fluoro-5-carbethoxyphenyl)-4-methyl-5-cyano-1-methyl-[1H]-pyrazole
5.2 g of 3-(4-chloro-2-fluoro-5-iodophenyl)-4-methyl-5-cyano-1-methyl-[1H]-pyrazole (Example H8), 60 ml of methanol, 2.8 g of triethylamine and 0.4 g of bis(triphenylphosphine)palladium(II) dichloride (PdCl2(PPh3)2) are placed into a 100 ml pressurized container and stirred for 16 hours at a temperature of 100° C. and a carbon monoxide pressure of 10 megapascal (Mpa). The solvent is subsequently evaporated and the crude product which remains is purified over a silica gel column (eluent: ethyl acetate/hexane 1/5). This gives 3.1 g (69.3% of theory) of the desired product.

reactant | 3-(4-chloro-2-fluoro-5-iodophenyl)-4-methyl-5-cyano-1-methyl-[1H]-pyrazole | 5.2 g | ClC1=CC(=C(C=C1I)C1=NN(C(=C1C)C#N)C)F | C12H8ClFIN3
reactant | methanol | 60 ml | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
reactant | triethylamine | 2.8 g | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(4-chloro-2-fluoro-5-carbethoxyphenyl)-4-methyl-5-cyano-1-methyl-[1H]-pyrazole | ClC1=CC(=C(C=C1C(=O)OCC)C1=NN(C(=C1C)C#N)C)F | C15H13ClFN3O2
